US20010018422A1
c) Synthesis of Racemic Cis-2-aminocyclopentanecarboxylic Acid
Under stirring at 0° C. 0.41 g (2.6 mmol) of Br2 were added to an aqueous solution (1.8 mL) of 0.48 g (12 mmol) NaOH. The mixture was cooled again and then 0.34 g (2.16 mmol) of cis-2-carbamoylcyclopentanecarboxylic acid added. After stirring for about 10 minutes again 0.35 g (8.65 mmol) NaOH—dissolved in 1.35 ml of water—were added, and then the whole mixture warmed to 75° C. for about 5 minutes. The mixture then was cooled again, neutralized by addition of conc. HCl, acidified with acetic acid and evaporated to dryness. The residue obtained was extracted five times with refluxing ethanol, and the combined ethanol-fractions evaporated again yielding 1.1 g of a white solid.

reactant | Br2 | 2.6 mmol, 0.41 g | BrBr | Br2
reactant | NaOH | 12 mmol, 0.48 g | [OH-].[Na+]
reactant | cis-2-carbamoylcyclopentanecarboxylic acid | 2.16 mmol, 0.34 g | C(N)(=O)[C@@H]1[C@@H](CCC1)C(=O)O | C7H11NO3
reactant | NaOH | 8.65 mmol, 0.35 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 1.35 ml | O | H2O
product | Racemic Cis-2-aminocyclopentanecarboxylic Acid | 1.1 g | N[C@@H]1[C@@H](CCC1)C(=O)O | C6H11NO2
